US03994875
To a suspension of 6.6 mM of 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid sodium salt in 35 ml of dimethyl formamide (DMF) is added 2 equivalents of p=pivalyloxybenzyl alcohol followed by cooling to 0° C after which 7.2 mM of dicyclohexylcarbodiimide in 7.5 ml of DMF is added dropwise with stirring. The mixture is stirred at 0° C for one hour and an additional four hours at room temperature. The formed dicyclohexylurea is removed by filtration. The filtrate is diluted with chloroform, washed with water, dried over magnesium sulfate, filtered, and evaporated in vacuo to give 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid p-pivalyloxybenzyl ester.

reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid sodium salt | 6.6 mM | [Na+].C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)[O-]
reactant | pivalyloxybenzyl alcohol | C(C(C)(C)C)(=O)OC(C1=CC=CC=C1)O | C12H16O3
reactant | dicyclohexylcarbodiimide | 7.2 mM | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethyl formamide | 35 ml | CN(C=O)C | C3H7NO
reactant | DMF | 7.5 ml | CN(C=O)C | C3H7NO
product | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid p-pivalyloxybenzyl ester | C(C(C)(C)C)(=O)OC1=CC=C(COC(=O)C=2N3C(C(C3SCC2COC(C)=O)N)=O)C=C1 | C22H26N2O7S
